*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLR1190-151_freq port1 port2 PARAMS: Cpar=103pF Ind=0.151uH
X1 port1 port2 Model1A PARAMS:
+ R1=34
+ R2=0.00043
+ C= {Cpar}
+ K1=0.000019
+ K2=0.015
+ K3= {Ind}
+ K4=-0.000614
+ K5=0.00000778
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=38.4775412
.ends SLR1190-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLR1190-151_imp port1 port2 PARAMS: Cpar=105.408pF Ind=0.151uH
X1 port1 port2 Model1D PARAMS:
+ R1=34
+ R2=0.00043
+ C= {Cpar}
+ K1=0.000019
+ K2=0.015
+ K3= {Ind}
+ K4=-0.000614
+ K5=0.00000778
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=38.4775412
.ends SLR1190-151_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-201
* Inductance = 200nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLR1190-201_freq port1 port2 PARAMS: Cpar=132pF Ind=0.201uH
X1 port1 port2 Model1A PARAMS:
+ R1=31
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000156
+ K2=0.017
+ K3= {Ind}
+ K4=-0.000295
+ K5=0.00000778
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39.8647829
.ends SLR1190-201_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-201
* Inductance = 200nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLR1190-201_imp port1 port2 PARAMS: Cpar=133.062pF Ind=0.201uH
X1 port1 port2 Model1D PARAMS:
+ R1=31
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000156
+ K2=0.017
+ K3= {Ind}
+ K4=-0.000295
+ K5=0.00000778
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39.8647829
.ends SLR1190-201_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-231
* Inductance = 230nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLR1190-231_freq port1 port2 PARAMS: Cpar=115pF Ind=0.231uH
X1 port1 port2 Model1A PARAMS:
+ R1=33
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.016
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42.9336587
.ends SLR1190-231_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-231
* Inductance = 230nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLR1190-231_imp port1 port2 PARAMS: Cpar=115.127pF Ind=0.231uH
X1 port1 port2 Model1D PARAMS:
+ R1=33
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.016
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42.9336587
.ends SLR1190-231_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-251
* Inductance = 250nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLR1190-251_freq port1 port2 PARAMS: Cpar=138pF Ind=0.251uH
X1 port1 port2 Model1A PARAMS:
+ R1=36
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.019
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42.014538
.ends SLR1190-251_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-251
* Inductance = 250nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLR1190-251_imp port1 port2 PARAMS: Cpar=138.138pF Ind=0.251uH
X1 port1 port2 Model1D PARAMS:
+ R1=36
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.019
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=42.014538
.ends SLR1190-251_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLR1190-271_freq port1 port2 PARAMS: Cpar=125pF Ind=0.27uH
X1 port1 port2 Model1A PARAMS:
+ R1=42
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.021
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=45.3289988
.ends SLR1190-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLR1190-271_imp port1 port2 PARAMS: Cpar=125.116pF Ind=0.27uH
X1 port1 port2 Model1D PARAMS:
+ R1=42
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.021
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=45.3289988
.ends SLR1190-271_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-311
* Inductance = 310nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLR1190-311_freq port1 port2 PARAMS: Cpar=152pF Ind=0.31uH
X1 port1 port2 Model1A PARAMS:
+ R1=46
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.024
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=43.9736885
.ends SLR1190-311_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-311
* Inductance = 310nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLR1190-311_imp port1 port2 PARAMS: Cpar=152.119pF Ind=0.31uH
X1 port1 port2 Model1D PARAMS:
+ R1=46
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.024
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=43.9736885
.ends SLR1190-311_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-371
* Inductance = 370nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SLR1190-371_freq port1 port2 PARAMS: Cpar=160pF Ind=0.37uH
X1 port1 port2 Model1A PARAMS:
+ R1=44
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.027
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=48.0643931
.ends SLR1190-371_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SLR1190-371
* Inductance = 370nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-20MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SLR1190-371_imp port1 port2 PARAMS: Cpar=160.103pF Ind=0.37uH
X1 port1 port2 Model1D PARAMS:
+ R1=44
+ R2=0.00043
+ C= {Cpar}
+ K1=0.0000142
+ K2=0.027
+ K3= {Ind}
+ K4=-0.000044
+ K5=0.0000109
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=48.0643931
.ends SLR1190-371_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
